US08207134B2
4) Synthesis of 1-benzenesulfonyl-6-bromo-5-bromomethyl-1H-indole
Under a nitrogen stream, a solution of 1-benzenesulfonyl-6-bromo-5-methyl-1H-indole (40 mg, 0.11 mmol), N-bromosuccinimide (NBS) (22 mg, 0.12 mmol) and 2,2′-azobis(isobutyronitrile) (AIBN) (1 mg, 0.01 mmol) in carbon tetrachloride (0.5 mL) was heated to reflux for 1 hour. The reaction mixture was cooled to room temperature, and then purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:9)), to thereby obtain the titled compound (22 mg, 45%).

reactant | 1-benzenesulfonyl-6-bromo-5-methyl-1H-indole | 0.11 mmol, 40 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=C(C=C12)Br)C | C15H12BrNO2S
reactant | N-bromosuccinimide | 0.12 mmol, 22 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 0.01 mmol, 1 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 0.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-benzenesulfonyl-6-bromo-5-bromomethyl-1H-indole | 22 mg, 45% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=C(C=C12)Br)CBr | C15H11Br2NO2S
